US07410966B2
1-[4-(6-Bromo-3H-imidazo[4,5-b]pyridin-2-yl)phenoxy]-3-piperidin-1-ylpropan-2-ol
The title compound was prepared from 6-bromo-2-[4-(oxiran-2-ylmethoxy)phenyl]-3H-imidazo[4,5-b]pyridine and piperidine.

reactant | 6-bromo-2-[4-(oxiran-2-ylmethoxy)phenyl]-3H-imidazo[4,5-b]pyridine | BrC=1C=C2C(=NC1)NC(=N2)C2=CC=C(C=C2)OCC2OC2 | C15H12BrN3O2
reactant | piperidine | N1CCCCC1 | C5H11N
product | 1-[4-(6-Bromo-3H-imidazo[4,5-b]pyridin-2-yl)phenoxy]-3-piperidin-1-ylpropan-2-ol | BrC=1C=C2C(=NC1)NC(=N2)C2=CC=C(OCC(CN1CCCCC1)O)C=C2 | C20H23BrN4O2
